US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-{2-[(4-{[2-(3-{(R)-2-[(R)-2-(8-Benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)ethylcarbamoyl]methyl}phenyl)-methylcarbamoyl]ethyl}piperidin-4-yl Ester
A mixture of 5-[(R)-2-{(R)-2-[3-(2-aminoethyl)phenyl]-1-methylethylamino}-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one (0.586 g, 1.00 mmol); [4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic acid (0.516 g, 1.00 mmol); 2-chloropyridium triflate on Wang resin (polymer-supported Mukaiyama reagent) (1.19 mmol/g loading; 1.68 g, 2.00 mmol); and N,N-diisopropylethylamine (522 μL, 3.00 mmol) in DCM (5.00 mL) was stirred at room temperature overnight. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (0-5% MeOH in DCM) to give the title compound (412 mg, 38% yield) as an off-white oil.

reactant | 5-[(R)-2-{(R)-2-[3-(2-aminoethyl)phenyl]-1-methylethylamino}-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one | 1.00 mmol, 0.586 g | NCCC=1C=C(C=CC1)C[C@@H](C)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C35H47N3O3Si
reactant | [4-({3-[4-(biphenyl-2-ylcarbamoyloxy)piperidin-1-yl]propionyl}methylamino)phenyl]acetic acid | 1.00 mmol, 0.516 g | C1(=C(C=CC=C1)NC(=O)OC1CCN(CC1)CCC(=O)CNC1=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C30H33N3O5
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | N,N-diisopropylethylamine | 3.00 mmol, 522 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 5.00 mL | C(Cl)Cl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-{2-[(4-{[2-(3-{(R)-2-[(R)-2-(8-Benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethylamino]propyl}phenyl)ethylcarbamoyl]methyl}phenyl)-methylcarbamoyl]ethyl}piperidin-4-yl Ester | 412 mg, 38% yield | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CN[C@@H](CC=1C=C(C=CC1)CCNC(=O)CC1=CC=C(C=C1)N(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C)O[Si](C)(C)C(C)(C)C | C65H78N6O7Si
